### PR TITLE
[Merged by Bors] - feat(Topology): ENat.toENNReal is a closed embedding

### PR DESCRIPTION
**Pull request by wwylele**
This is put in a new file because it needs combined import from Topology/ENat and Topology/ENNReal, and the existing Topoloty/ENNReal/Lemmas file is pretty deep in the tree so I don't want to increase the import to it.

AI usage disclosure: the statement were verified by Aristotle. The proof was completely rewritten by me.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/ENNReal/ENatENNReal.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
...
+# Topology lemma for `ENat.toENNReal`
+
+This file shows `ENat.toENNReal` is a closed embedding.
+-/
+
+public section
+
+namespace ENat
+
+theorem continuous_toENNReal : Continuous toENNReal := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/ENNReal/ENatENNReal.lean:24]: Perhaps 

```suggestion
@[continuity]
theorem continuous_toENNReal : Continuous toENNReal := by
```

File: Mathlib/Topology/Instances/ENNReal/ENatENNReal.lean [hunk 2]
```diff
@@ -0,0 +1,33 @@
...
+  refine OrderTopology.continuous_iff.mpr fun a ↦ ⟨?_, ?_⟩
+  · have : toENNReal ⁻¹' Set.Ioi a = Set.Ioi ⌊a⌋ₑ := by ext; simp
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/ENNReal/ENatENNReal.lean]: This may as well be a standalone lemma, preferably with all the other pre images of intervals

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
